US04826866
3-(Hexylamino)-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride [1:1]
A stirred solution of 15.8 g (0.091 mole) of 4-hexyl-3-thiosemicarbazide in 150 mL of absolute ethanol under nitrogen atmosphere was treated with 14.8 g (0.091 mole) of ethyl 2-chloroacetoacetate, stirred for 2.5 hr at ambient temperature, treated with 50 mL of 2N ethanolic hydrogen chloride, heated at reflux for 1 hr, and stirred at ambient temperature ~16 hr. The reaction mixture was heated to dissolve most of the solids, filtered to remove the insoluble sulfur and concentrated in vacuo to give a deep red-orange oil. After standing for 3 weeks at ambient temperature, the oil began to crystallize. Trituration with ethyl acetate and filtration gave 13 g of crude product, which was recrystallized from acetone/diethyl ether to give 7.5 g of white granular product, mp 108°-109° C.

reactant | 4-hexyl-3-thiosemicarbazide | 0.091 mole, 15.8 g | C(CCCCC)NC(NN)=S | C7H17N3S
reactant | ethyl 2-chloroacetoacetate | 0.091 mole, 14.8 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 50 mL | Cl | ClH
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 3-(Hexylamino)-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride | 7.5 g | Cl.C(CCCCC)NC1=NNC(=C1C(=O)OCC)C | InChI=1S/C13H23N3O2.ClH/c1-4-6-7-8-9-14-12-11(10(3)15-16-12)13(17)18-5-2;/h4-9H2,1-3H3,(H2,14,15,16);1H
